US05817671
5-(N-[octanoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.01 gm (0.044 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.01 mL (0.057 mMol) octanoyl chloride, 0.013 gm (83%) of the title compound were prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.044 mMol, 0.01 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | octanoyl chloride | 0.057 mMol, 0.01 mL | C(CCCCCCC)(=O)Cl | C8H15ClO
product | 5-(N-[octanoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.013 gm, 83% | C(CCCCCCC)(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C21H32N4O
